US07511057B2
3-tert-Butyl-1-[4-(methylthio)phenyl]-1H-pyrazol-5-amine
Concentrated hydrochloric acid (1 mL) was added dropwise to a mixture of 4-methylthiophenyl hydrazine (2 g, 10.5 mmol) and 4,4-dimethyl-3-oxopentane nitrile (1.44 g, 11.5 mmol) in ethanol (30 mL) and the mixture was heated under reflux for 18 hours. The cooled mixture was then diluted with ethyl acetate, washed with saturated sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol, 100:0 to 97:3 to afford the title compound as a yellow oil that crystallised on standing (2.59 g, 95% yield).

reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | 4-methylthiophenyl hydrazine | 10.5 mmol, 2 g | CSC1=CC=C(C=C1)NN | C7H10N2S
reactant | 4,4-dimethyl-3-oxopentane nitrile | 11.5 mmol, 1.44 g | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tert-Butyl-1-[4-(methylthio)phenyl]-1H-pyrazol-5-amine | 95% yield | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=C(C=C1)SC | C14H19N3S
